US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-(4-methylphenoxy)benzaldehyde in an analogous manner to that described in Example 1 to give 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-[3-(4-methylphenoxy)-phenyl]-1,8(2H,5H)-acridinedione. Crystallization from ethanol gave a pale yellow crystalline solid of melting point 202-203° C.

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(4-methylphenoxy)benzaldehyde | CC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C14H12O2
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-[3-(4-methylphenoxy)-phenyl]-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)OC1=CC=C(C=C1)C)=O)C | C30H33NO3
